US06265575B1
Part D. 2-(4-Aminophenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene
By essentially following the conditions described in Example 179, Part A, the free base of the title compound was prepared as an oil from 2-(4-aminophenyl)benzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone (Part C) in 85% yield following MPLC (SiO2; 30% then 40% THF with 5% TEA in hexanes). The product was converted to the oxalate salt according to the conditions described in Example 1, Part G.

reactant | 2-(4-aminophenyl)benzo[b]thiophene-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone | N1(CCCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)N)C=CC=C2 | C27H26N2O2S
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Aminophenyl)-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | 85% yield | NC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C27H28N2OS
